US05474705
To a solution of 5-benzyloxy-2-(4-hydroxyphenyl)pyrimidine (Sg, 0.0180 moles) (prepared essentially as in Example 1) and imidazole (2.5g, 0.0360 moles) in N,N-dimethylformamide (DMF) (50 ml) was added 2.7 g (0.0180 moles) of t-butyldimethylsilylchloride. The resulting mixture was stirred at room temperature for 4 weeks. The stirred mixture was then poured into 100 ml of dilute bicarbonate, and the resulting solid was collected by filtration. After recrystallization from methanol, the solid was hydrogenated at 60 psi (3100 torr) with catalytic 10% palladium on carbon for 48 hours. The catalyst was then removed by filtration, and the solvent was removed on a rotary evaporator to yield 2.4 g of 5-hydroxy-2-(4-(t-butyldimethylsiloxyphenyl)pyrimidine.

reactant | 5-benzyloxy-2-(4-hydroxyphenyl)pyrimidine | 0.0180 moles | C(C1=CC=CC=C1)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C17H14N2O2
reactant | imidazole | 0.0360 moles, 2.5g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilylchloride | 0.0180 moles, 2.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | bicarbonate | 100 ml | C([O-])(O)=O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(t-butyldimethylsiloxyphenyl)pyrimidine | O([Si](C)(C)C(C)(C)C)C1=C(C=CC=C1)C1=NC=NC=C1 | C16H22N2OSi
